US09431145B2
6,6,12,12-tetraoctyl-6,12-dihydroindeno[1,2-b]fluorene
6,12-Dihydroindeno[1,2-b]fluorene (24.03 g) was dissolved in DMSO (372.4 mL, Sigma-Aldrich) and sodium tert-butoxide (56.18 g) was added before heating to 80° C. Octyl bromide (110.6 g, Fluorochem) was added dropwise keeping the temperature below 90° C. The reaction was cooled, dissolved in heptane (2400 mL), washed with water (3×746 mL), dried (Na2SO4) and concentrated to give a dark solid. The solid was refluxed in methanol (480 mL) for 10 minutes, cooled to room temperature and collected by vacuum filtration. The solids were washed with methanol (2×480 mL) and dried to give the product as a dark solid. Yield; 82.56 g. 1H NMR (400 MHz, CDCl3); 7.74 (2H, m), 7.60 (2H, m), 7.32 (6H, m), 2.00 (8H, m), 1.05 (40H, m), 0.80 (12H, m), 0.60 (8H, m).

reactant | 6,12-Dihydroindeno[1,2-b]fluorene | 24.03 g | C1=CC=CC=2C=3C=C4C(=CC3CC12)C1=CC=CC=C1C4 | C20H14
reactant | sodium tert-butoxide | 56.18 g | CC(C)([O-])C.[Na+]
reactant | Octyl bromide | 110.6 g | C(CCCCCCC)Br | C8H17Br
solvent | DMSO | 372.4 mL | CS(=O)C | C2H6OS
solvent | heptane | 2400 mL | CCCCCCC | C7H16
solvent | methanol | 480 mL | CO | CH4O
product | 6,6,12,12-tetraoctyl-6,12-dihydroindeno[1,2-b]fluorene | C(CCCCCCC)C1(C2=CC=CC=C2C2=CC=3C(C=4C=CC=CC4C3C=C21)(CCCCCCCC)CCCCCCCC)CCCCCCCC | C52H78
